US07241893B2
A solution of 6-bromo-1H-benzo[d][1,3]oxazine-2,4-dione (90 g, 0.373 mol) in (N,N-dimethylformamide) (DMF) (400 ml) was added to a solution of malonitrile (37 g, 0.41 mol) and triethylamine (41.4 g, 0.41 mol) in DMF (150 ml) at 50–60° C. The reaction mixture was maintained at 50–60° C. for 30 min. A reverse quench into ice-cold 0.2N HCl (400 ml) produced a precipitate. This material was isolated by filtration and vacuum dried. It was then dissolved in 8 N KOH (2 l) and the solution was refluxed for 40 h. After cooling to rt, the mixture was neutralized with HCl, and the resulting precipitate was filtered and air dried to afford 2-amino-6-bromo-quinolin-4-ol as a pale yellow solid (95 g, 97%). This material was used in the next step without further purification.

reactant | 6-bromo-1H-benzo[d][1,3]oxazine-2,4-dione | 0.373 mol, 90 g | BrC1=CC2=C(NC(OC2=O)=O)C=C1 | C8H4BrNO3
reactant | malonitrile | 0.41 mol, 37 g | C(C(O)CC#N)#N | C4H4N2O
reactant | triethylamine | 0.41 mol, 41.4 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 2-amino-6-bromo-quinolin-4-ol | 95 g, 97% | NC1=NC2=CC=C(C=C2C(=C1)O)Br | C9H7BrN2O
